US05604227
c. Methyl 2-amino-6-methoxybenzoate
To a stirred solution of sodium hydroxide (0.06 g, 1.5 mM) in methanol (7 mL) under a nitrogen atmosphere was added 5-methoxy -2H-3,1-benzoxazine-2,4(1H)-dione (2.90 g, 15.0 mM). The reaction mixture was stirred at 65° C. for 14.5 hr, cooled to room temperature and poured into water. The resulting solution was extracted with ethyl acetate and the combined extracts were dried (Na2SO4), filtered and concentrated to provide the title compound (2.55 g, 94%) as a tan oil; MS(CI): 182 (M+H).

reactant | sodium hydroxide | 1.5 mM, 0.06 g | [OH-].[Na+]
reactant | 5-methoxy -2H-3,1-benzoxazine-2,4(1H)-dione | 15.0 mM, 2.90 g | COC1=CC=CC2=C1C(OC(N2)=O)=O | C9H7NO4
reactant | water | O | H2O
solvent | methanol | 7 mL | CO | CH4O
product | Methyl 2-amino-6-methoxybenzoate | 2.55 g, 94% | NC1=C(C(=O)OC)C(=CC=C1)OC | C9H11NO3
